US07582640B2
ethyl 3-[[5-ethyl-6-[4-(1,2,3,4-tetrahydro-1,8-naphthyridin-7-yl)-1-piperidinyl]-4-pyrimidinyl]amino]-N-[(phenylmethoxy)carbonyl]alaninate, dihydrochloride
160 μl (2.19 mmoles) of thionyl chloride is added to 4 ml of ethanol cooled down to −12° C. under a nitrogen atmosphere and the mixture is stirred for 30 minutes. Then a solution of 354 mg (0.45 mmoles) of 3-[[5-ethyl-6-[4-(1,2,3,4-tetrahydro-1,8-naphthyridin-7-yl)-1-piperidinyl]-4-pyrimidinyl]amino]-N-[(phenylmethoxy)carbonyl]alanine, bis(trifluoroacetate) in 13 ml of ethanol is added. The mixture is stirred for 30 minutes at −12° C. then left to return to ambient temperature and finally heated at 40° C. for 4 hours under nitrogen. The reaction medium is evaporated to dryness under vacuum and the residue crystallizes from a mixture of diisopropyl ether and of pentane and the solid is filtered. 284 mg (Yield=95%) of expected product is obtained in the form of an amorphous beige solid.

reactant | thionyl chloride | 2.19 mmoles, 160 μl | S(=O)(Cl)Cl | Cl2OS
reactant | 3-[[5-ethyl-6-[4-(1,2,3,4-tetrahydro-1,8-naphthyridin-7-yl)-1-piperidinyl]-4-pyrimidinyl]amino]-N-[(phenylmethoxy)carbonyl]alanine | 0.45 mmoles, 354 mg | C(C)C=1C(=NC=NC1N1CCC(CC1)C1=CC=C2CCCNC2=N1)NC[C@H](NC(=O)OCC1=CC=CC=C1)C(=O)O | C30H37N7O4
reactant | ethanol | 13 ml | C(C)O | C2H6O
reactant | ethanol | 4 ml | C(C)O | C2H6O
product | ethyl 3-[[5-ethyl-6-[4-(1,2,3,4-tetrahydro-1,8-naphthyridin-7-yl)-1-piperidinyl]-4-pyrimidinyl]amino]-N-[(phenylmethoxy)carbonyl]alaninate, dihydrochloride | 284 mg, Yield=95% | Cl.Cl.C(C)C=1C(=NC=NC1N1CCC(CC1)C1=CC=C2CCCNC2=N1)NC[C@H](NC(=O)OCC1=CC=CC=C1)C(=O)OCC | InChI=1S/C32H41N7O4.2ClH/c1-3-25-29(34-19-27(31(40)42-4-2)38-32(41)43-20-22-9-6-5-7-10-22)35-21-36-30(25)39-17-14-23(15-18-39)26-13-12-24-11-8-16-33-28(24)37-26;;/h5-7,9-10,12-13,21,23,27H,3-4,8,11,14-20H2,1-2H3,(H,33,37)(H,38,41)(H,34,35,36);2*1H/t27-;;/m0../s1
